US04556738
To an autoclave there are added 30.7 g (0.1 moles) of 4-chloro-3,4'-dinitro benzophenone, 10.6 g (0.1 moles) of sodium carbonate, 1 g of 5% palladium/alumina catalyst (available from Nihon-Engelhardt Co.) and 250 ml of 1,2-dichloro ethane. With the mixture being stirred at 30°-35° C., the reaction is carried out at a constant pressure for 10 hours by introducing hydrogen into the mixture. After completion of the reaction, the reaction mixture is heated up to 70° C. to be subjected to filtering for removing the catalyst. Then, on cooling, there is obtained 3,4'-diamino benzophenone in the form of yellow needle-like crystals. The crystals are filtered, washed with 20 ml of 1,2-dichloro ethane and dried. Yield 17.6 g (83%). M.P. 121°-122° C. Recrystallization from ethanol gives yellow needle-like pure crystals of said benzophenone. M.P. 122°-122.5° C.

reactant | 4-chloro-3,4'-dinitro benzophenone | 0.1 moles, 30.7 g | ClC1=C(C=C(C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=C1)[N+](=O)[O-] | C13H7ClN2O5
reactant | sodium carbonate | 0.1 moles, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium/alumina | 1 g | [Pd] | Pd
solvent | 1,2-dichloro ethane | 250 ml | ClCCCl | C2H4Cl2
product | 3,4'-diamino benzophenone | NC=1C=C(C(=O)C2=CC=C(C=C2)N)C=CC1 | C13H12N2O
